Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
Lumbar puncture attempt (___)
Lumbar puncture (___)
 
History of Present Illness:
Ms. ___ is a ___ year old woman with hx of ___ and 
fronto-temporal dementia with agitation, who presented to ___ 
___ with increasing agitation. Patient is unable to provide 
a history. History is obtained from records and patient's 
daughter ___, who is at bedside. 

Patient was first seen at ___ on ___ following a 
fall at home. At the time, patient was found to have a head 
laceration. A CT head and c-spine were unremarkable. Two days 
later, she again fell and hit her head. Since that time, it is 
reported that she has been increasingly agitated and altering of 
her sleep/wake cycle. Per records, patient was not having any 
fevers, chills, or other new complaints. Of note, patient had 
recently been started on Seroquel for increasing agitation. 
However, this was stopped after one dose due to her husband's 
concerns about its safety. 

Per patient's daughter ___, patient has been becoming much more 
agitated recently, often yelling out. Will be up all night 
trying to get out of bed. Sometimes is able to be redirected, 
but at other times very difficult. Has been very difficult on 
her husband, ___, who is not able to get enough sleep and is
starting to lose weight. It is very important to him that she be 
able to stay home. They have hired several aids to help with 
this. ___ is concerned about her quality of life. 

As for code status, ___ states that she would not want her 
mother to be resuscitated. However, though she is the HCP, she 
does not want to go against the wishes of her father/patient's 
husband, who for now would want everything done. She is hoping 
to have a discussion about this with him tomorrow. 
 
In the ED, initial VS were: T 98.1, HR 77, BP 92/56, RR 16, 98%
RA 
Exam notable for:  Moaning, does not answer questions. Alert and
eyes open. Tachycardic, regular rhythm, rate 120. CTAB. NTND 
abd.
No c/c/e. 

Labs showed:  
- CBC: WBC 8.6, Hgb 12.9, Plt 185 

- Lytes:
147 / 106 / 12  
--------------- 132 
4.0 \ 26 \ 0.7 

- Trop-T: 0.03 -> 0.02

- lactate 1.1

- Flu negative

Imaging significant for CXR with no evidence of pneumonia.

Consults:  
Neurosurgery was consulted, recommending:
- No neurosurgical intervention indicated at this time.
- No anti-epileptic drugs indicated at this time.
- Recommend medicine consult and evaluation for delirium.
- Recommend social work consult for patient/family coping

While in the ED, patient spiked a fever to 101.4. At this time, 
patient was pan-cultured and flu was sent. A lactate was sent, 
returning at 1.1.

Patient received:  
___ 22:17 IV Haloperidol 2 mg  
___ 22:37 IV OLANZapine 5 mg   
___ 00:33 PO OLANZapine 5 mg  
___ 03:10 IVF  NS  @ 125 mL/hr for 1L 
___ 07:10 IM Haloperidol 2 mg   
___ 16:40 IV Acetaminophen IV 1000 mg 

Transfer VS were: T 98.0, HR 65, BP 92/46, RR 20, 95% RA 

On arrival to the floor, patient asleep. Wakens and is moaning. 
 
REVIEW OF SYSTEMS: unable to obtain due to altered mental status 

 
Past Medical History:
- ___ disease
- Fronto-temporal dementia 
- Hypercholesterolemia 
 
 
Social History:
___
Family History:
Father with dementia.
 
Physical Exam:
#ERROR!
ADMISSION EXAM
#ERROR!
VS: T 97.9, HR 65, BP 103/65, RR 22, 92% RA   
GENERAL: lying in bed, initially sleeping, then wakens, moaning,
trying to sit up and get out of bed. Calms with repositioning. 
HEENT: AT/NC, PERRL, right eyelid drooping with some possible
flatting of right nasolabial fold 
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, no grimace to palpation
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: not oriented, not responding to questions or commands.
PERRL. Right eyelid drooping. No apparent lower facial droop.
Moving all 4 extremities, though difficult to assess strength.   

SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

#ERROR!
DISCHARGE EXAM
#ERROR!
___ 0637 Temp: 97.3 PediatricAxillary BP: 145/83 R Lying 
HR:
92 RR: 20 O2 sat: 93% O2 delivery: Ra 
GENERAL: Lying in bed, awake, turns head to her name but does 
not
verbalize 
HEENT: Pupils dilated, equally reactive
HEART: RRR, S1/S2, no m/r/g
LUNGS: CTABL, no w/c/r
ABDOMEN: BS+, soft, NTND
EXTREMITIES: No peripheral ___ edema b/l
NEURO: Cogwheel rigidity in upper extremities. ___ movement
SKIN: Warm, well-perfused
 
Pertinent Results:
#ERROR!
ADMISSION LABS
#ERROR!
___ 11:20PM BLOOD WBC-8.6 RBC-4.17 Hgb-12.9 Hct-38.7 MCV-93 
MCH-30.9 MCHC-33.3 RDW-11.4 RDWSD-38.6 Plt ___
___ 11:20PM BLOOD Neuts-77.1* Lymphs-15.4* Monos-5.5 
Eos-1.0 Baso-0.5 Im ___ AbsNeut-6.65* AbsLymp-1.33 
AbsMono-0.47 AbsEos-0.09 AbsBaso-0.04
___ 11:20PM BLOOD ___ PTT-29.2 ___
___ 11:20PM BLOOD Glucose-132* UreaN-12 Creat-0.7 Na-147 
K-4.0 Cl-106 HCO3-26 AnGap-15

#ERROR!
PERTINENT RESULTS
#ERROR!
LABS
#ERROR!
___ 11:20PM BLOOD CK(CPK)-157
___ 01:10PM BLOOD CK(CPK)-3072*
___ 06:08AM BLOOD CK(CPK)-2803*
___ 06:28AM BLOOD CK(CPK)-2638*
___ 05:19AM BLOOD CK(CPK)-1272*
#ERROR!
___ 11:20PM BLOOD CK-MB-5
___ 04:10AM BLOOD CK-MB-6
___ 11:20PM BLOOD cTropnT-0.03*
___ 04:10AM BLOOD cTropnT-0.02*
#ERROR!
___ 06:08AM BLOOD VitB12-199* Folate-9
___ 04:10AM BLOOD TSH-1.7

#ERROR!
MICROBIOLOGY
#ERROR!
___ 06:00PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
#ERROR!
___ 12:39PM CEREBROSPINAL FLUID (CSF) TNC-18* RBC-___* 
Polys-86 ___ Monos-1 Eos-2 NRBC-1
___ 12:42PM CEREBROSPINAL FLUID (CSF) TNC-14* ___ 
Polys-85 ___ ___ 12:39PM CEREBROSPINAL FLUID (CSF) TotProt-79* 
Glucose-74
___ 12:39PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR-NEG 
___ 10:53AM CEREBROSPINAL FLUID (CSF) VARICELLA DNA 
(PCR)-NEG
#ERROR!
___ 12:42 pm
CSF;SPINAL FLUID  Source: LP #2. 
GRAM STAIN (Final ___: 
NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
NO MICROORGANISMS SEEN. 
FLUID CULTURE (Final ___: NO GROWTH. 
Enterovirus Culture (Preliminary): No Enterovirus isolated. 
#ERROR!
___ 6:08 am SEROLOGY/BLOOD **FINAL REPORT ___
RAPID PLASMA REAGIN TEST (Final ___: NONREACTIVE. 
#ERROR!
___ 5:51 pm URINE **FINAL REPORT ___
URINE CULTURE (Final ___: 
STREPTOCOCCUS ANGINOSUS (___) GROUP. >100,000 CFU/mL. 
SENSITIVITIES: MIC expressed in MCG/ML
_______________________________________________________
                             STREPTOCOCCUS ANGINOSUS (___) 
GROUP
                             |   
CEFTRIAXONE-----------   0.5 S
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.12 S
PENICILLIN G----------  0.12 S
VANCOMYCIN------------   0.5 S
#ERROR!
___ 4:50 pm BLOOD CULTURE **FINAL REPORT ___
Blood Culture, Routine (Final ___: NO GROWTH. 

#ERROR!
IMAGING/STUDIES
#ERROR!
CXR (___): No evidence of pneumonia.
#ERROR!
NCHCT (___): 
1. No interval change in the 8 mm thick left frontoparietal 
convexity chronic subdural hematoma/subdural hygroma.  No 
evidence of acute intra-axial hemorrhage. 
2. Additional findings described above. 
#ERROR!
EEG (___): 
IMPRESSION: This is mildly abnormal video-EEG monitoring session 
because of mild to moderate slowing of the background activity. 
This is indicative of mild to moderate diffuse encephalopathy 
that is nonspecific in etiology but common causes are 
medications effect, infections or toxic/metabolic 
disturbances. This recording captured no pushbutton activations, 
epileptiform discharges or electrographic seizures. 
#ERROR!
EEG (___):
IMPRESSION: This is an abnormal video-EEG monitoring session 
because of mild slowing of the background activity. This is 
indicative of mild diffuse encephalopathy that is nonspecific in 
etiology but common causes are medication effect, infections or 
toxic/metabolic disturbances. This recording captured no 
pushbutton activations, epileptiform discharges or 
electrographic seizures. Compared to the prior day's recording, 
a slow posterior dominant rhythm was seen. 
#ERROR!
MRI Head (___):
1. Incomplete exam. 
2. No acute infarct. 
3. Stable left hemispheric subdural collection, suboptimally 
evaluated. 
#ERROR!
CXR (___): No evidence of pneumonia. Stable mild pulmonary 
vascular congestion.

#ERROR!
DISCHARGE LABS
#ERROR!
___ 05:28AM BLOOD WBC-8.6 RBC-4.30 Hgb-13.6 Hct-40.4 MCV-94 
MCH-31.6 MCHC-33.7 RDW-12.6 RDWSD-43.0 Plt ___
___ 05:28AM BLOOD Glucose-119* UreaN-10 Creat-0.6 Na-144 
K-4.1 Cl-106 HCO3-27 AnGap-11
___ 05:28AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.2
___ 08:04PM BLOOD ___ pO2-206* pCO2-24* pH-7.54* 
calTCO2-21 Base XS-0 Comment-GREEN TOP
___ 10:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 05:51PM URINE RBC-2 WBC-3 Bacteri-FEW* Yeast-NONE Epi-0
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with history of ___ 
disease and fronto-temporal dementia with behavioral disturbance 
who presented with acute on chronic agitation, found to have 
subdural hygroma and fever.

#ERROR!
ACUTE ISSUES
#ERROR!
# Toxic-metabolic encephalopathy 
# Acute on chronic agitation: 
# Dementia: Patient presented with acute on chronic agitation. 
Patient was febrile, and agitation may have been related to 
infection. Infectious evaluation was notable for urine culture 
that grew S. anginosis, although it is unclear if this was 
pathogenic. CXR without pneumonia. Influenza swab negative. 
Lumbar puncture was obtained after the patient was initiated on 
empiric meningitis therapy and therefore the results were 
difficult to determine. However, overall the clinical suspicion 
for meningoencephalitis was low, and with the consultation of 
Infectious Disease, antibiotics and antiviral were de-escalated 
and discontinued. Patient was noted to have B12 deficiency that 
could contribute to neurologic symptoms but is unlikely to fully 
account for her presentation; the patient was initiated on B12 
supplementation. The patient was noted to have a frontal subdral 
hygroma, which given its location may be contributing to 
patient's behavioral changes although there was no evidence of 
mass effect. EEG was without seizure activity. MRI was limited 
due to motion artifact. Over time, the patient's agitation 
improved. Psychiatry was consulted for assistance with 
medication management, and the patient was initiated on 
gabapentin 100 mg QHS with mild improvement in Sx, though pt 
continued to have waxing-waning mental status. After ___ 
discussion, pt's husband/HCP desiring for acute rehab stay with 
goal of eventually getting wife back home, though understanding 
that this may not end up being possible. Desiring for pt to 
remain full code for now, will have family discussion after 
discharge.

# Fever, resolved
# Possible S. anginosis urinary tract infection:
# Possible meningoencephalitis: As above, patient was noted to 
be febrile on admission and underwent extensive infectious 
evaluation that was notable for Strep anginosis in the urine and 
equivocal CSF findings that were obtained after the initiation 
of antibiotics and antivirals. Ultimately, all antibiotics were 
discontinued and the patient remained afebrile.

# Hypoxia: Patient noted to have oxygen saturations in low ___ 
on room air throughout hospital course. CXR without evidence of 
pulmonary pathology. Ultimately, this was thought to be due to 
atelectasis.

# Subdural hygroma: Found on initial imaging, possibly 
contributing to change in mental status. Patient was seen by 
neurosurgery, who thought that there was no need for 
intervention at this time. An MRI was obtained to further 
evaluate, but was limited due to motion artifact.

# B12 deficiency: Patient noted to have B12 deficiency. Started 
on B12 supplementation 1000 mcg weekly (___) x1 month (Last 
day: ___ then monthly thereafter

#ERROR!
CHRONIC ISSUES
#ERROR!
# ___ disease: Patient noted to have cogwheel rigidity 
on exam. Patient previously trialed Sinemet in ___, but this 
was stopped due to side effects.

#ERROR!
TRANSITIONAL ISSUES
#ERROR!
- Medication changes:
-- Started on gabapentin 100 mg QHS for agitation; consider 
gradual uptitration
-- Pt may benefit from geriatric psychiatry consult for 
assistance in titrating home psych meds, can consider decreasing 
Sertraline vs Mirtazipine to increase daylight activity, though 
need balance night-time sedation
-- Started on B12 supplementation 1000 mcg weekly (___) x1 
month (Last day: ___ then monthly thereafter
-- Consider discontinuing aspirin and atorvastatin given 
difficulties taking pills, age, and other comorbidities
-- Would encourage continuing ___/code status discussions

- Communication: Name of health care proxy: Dr. ___, 
husband, ___ 
- Code: Full (confirmed)

>30 minutes spent on complex discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. Mirtazapine 30 mg PO QHS 
3. Aspirin 81 mg PO DAILY 
4. melatonin 10 mg oral QPM 
5. Fish Oil (Omega 3) 300 mg PO BID 
6. Calcium 600 + D(3) (calcium carbonate-vitamin D3) ___  
oral DAILY 
7. Atorvastatin 80 mg PO QPM 
8. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN Dry 
eyes  
2.  Cyanocobalamin 1000 mcg IM/SC 1X/WEEK (___)  
3.  Gabapentin 100 mg PO QHS  
4.  Lidocaine 5% Patch 1 PTCH TD QPM  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  Senna 17.2 mg PO HS  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 80 mg PO QPM  
9.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) ___  
oral DAILY  
10.  Docusate Sodium 100 mg PO BID  
11.  Fish Oil (Omega 3) 300 mg PO BID  
12.  Mirtazapine 30 mg PO QHS  
13.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: 
- Toxic-metabolic encephalopathy 
- Dementia 
 
SECONDARY: 
- Fever 
- Possible urinary tract infection 
- ___ disease 
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You came to the hospital because you were more confused

WHAT HAPPENED TO ME IN THE HOSPITAL?
- We found that you had a fever, and we did tests to find the 
cause
- We gave you antibiotics and you got better
- We made some changes to your medications to help with your 
confusion

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___